US09126931B2
3-Bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-5,6,6-trimethyl-5,6-dihydro-benzo[b]carbazol-11-one
Under nitrogen atmosphere, to the DMF (1 mL) suspension of 3-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound T18-1, 112.2 mg, 0.239 mmol) and sodium hydride (60%) (19 mg, 0.477 mmol), cooled in an ice bath, methyl iodide (37 mL, 0.596 mmol) was added. The reaction mixture was stirred at room temperature for 45 min, and then added with saturated aqueous solution of ammonium chloride and saturated aqueous solution of sodium thiosulfate under ice cooling. The mixture was extracted twice with ethyl acetate/diethyl ether/hexane. The organic layer was washed with water and subsequently with aqueous solution of ammonium chloride, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting crude product was purified by flash column chromatography {Merck Kieselgel60, solution for elution:hexane/ethyl acetate (1:1)} to obtain the title compound (white solid, 107.3 mg, 93%).

reactant | 3-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.239 mmol, 112.2 mg | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC[C@@H]4OC(OC4)(C)C)=O | C24H24BrNO4
reactant | sodium hydride | 0.477 mmol, 19 mg | [H-].[Na+]
reactant | methyl iodide | 0.596 mmol, 37 mL | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-5,6,6-trimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 107.3 mg, 93% | BrC1=CC=C2C=3C(C4=C(C(C3N(C2=C1)C)(C)C)C=C(C=C4)OC[C@@H]4OC(OC4)(C)C)=O | C25H26BrNO4
